US06066631
Synthesis of trans-6-(benzoylamino)-3,4-dihydro-2,2-dimethyl-7-nitro-4-(1-pyrrolidinyl)-2H-1-benzopyran-3-ol
A solution of an ethanol (5 mL) solution of a 6-(benzoylamino)-3,4-epoxy-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1-benzopyran (II-1) (147 mg, 0.43 mmol) was added with a pyrrolidine (0.07 mL) and heated under reflux for two hours. After the mixture was cooled to room temperature, the mixture was concentrated and the obtained residue was purified through silica gel column chromatography (hexane:ethyl acetate=3:1) to obtain the intended product (40.3 mg, 23%) as a brown solid.

reactant | 6-(benzoylamino)-3,4-epoxy-3,4-dihydro-2,2-dimethyl-7-nitro-2H-1-benzopyran | 0.43 mmol, 147 mg | C(C1=CC=CC=C1)(=O)NC=1C(=CC2=C(C3C(C(O2)(C)C)O3)C1)[N+](=O)[O-] | C18H16N2O5
reactant | pyrrolidine | 0.07 mL | N1CCCC1 | C4H9N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | trans-6-(benzoylamino)-3,4-dihydro-2,2-dimethyl-7-nitro-4-(1-pyrrolidinyl)-2H-1-benzopyran-3-ol | 40.3 mg, 23% | C(C1=CC=CC=C1)(=O)NC=1C(=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2CCCC2)C1)[N+](=O)[O-] | C22H25N3O5
